US06759554B2
1-tert-Butoxycarbonyl-1-(4-phenylphenyl)hydrazine
An oven-dried resealable Schlenk tube was charged with CuI (50 mg, 0.263 mmol, 5.1 mol %), 1,10-phenanthroline (100 mg, 0.555 mmol, 11 mol %), 4-iodobiphenyl (1.45 g, 5.18 mmol), Cs2CO3 (2.30 g, 7.06 mmol), evacuated and backfilled with argon. tert-Butyl carbazate (825 mg, 6.24 mmol) and dioxane (1.0 mL) were added under argon. The Schlenk tube was sealed and the reaction mixture was stirred magnetically at 110° C. for 23 h. The resulting suspension was cooled to room temperature and filtered through a 1×1 cm pad of silica gel eluting with 50 mL of ethyl acetate. The filtrate was concentrated and the residue was purified by flash chromatography on silica gel (2×20 cm; hexane-ethyl acetate 4:1; 20 mL fractions). Fractions 9-20 provided 1.29 g (88% yield) of the product as a light yellow solid. 1H NMR (400 MHz, CDCl3): δ 7.64−7.59 (m, 2H), 7.57 (s, 4H), 7.48−7.43 (m, 2H), 7.38−7.33 (m, 1H), 4.50 (s, 2H), 1.56 (s, 9H).

reactant | 1,10-phenanthroline | 0.555 mmol, 100 mg | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | 4-iodobiphenyl | 5.18 mmol, 1.45 g | IC1=CC=C(C=C1)C1=CC=CC=C1 | C12H9I
reactant | Cs2CO3 | 7.06 mmol, 2.30 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | tert-Butyl carbazate | 6.24 mmol, 825 mg | C(NN)(=O)OC(C)(C)C | C5H12N2O2
catalyst | CuI | 0.263 mmol, 50 mg | [Cu]I
solvent | dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
product | 1-tert-Butoxycarbonyl-1-(4-phenylphenyl)hydrazine | 1.29 g, 88% yield | C(C)(C)(C)OC(=O)N(N)C1=CC=C(C=C1)C1=CC=CC=C1 | C17H20N2O2
